US04927944
Ethyl 8-cyano-9,9-bis(4-fluorophenyl)-5-hydroxy-3-oxo-6,8-nonadienoate
To a chilled suspension (0° C., ice-water bath) of sodium hydride (120 mg, 60% suspension in mineral oil, 3 mmol) in dry tetrahydrofuran (2 mL) under an inert atmosphere was added ethyl acetoacetate (330 μL, 2.6 mmol) in 4 equal portions over a period of 10 minutes. The homogeneous clear solution was stirred at 0° C. for 30 minutes followed by the dropwise addition of 2.5M n-BuLi hexane solution (1.15 mL, 2.9 mmol) over 15 minutes. The orange dianion solution was stirred at 0° C. for an additional hour. The ice-water bath was replaced by an acetone-dry ice bath at -78° C. and the dianion solution was transferred via a cannula into a tetrahydrofuran (10 mL) solution containing 4-cyano-5,5-bis(4-fluorophenyl)-2,4-pentadienal (0.5 g, 1.7 mmol). The reaction mixture was allowed to stir at -78° C. for 5 minutes then was diluted with 40 mL of 1M HCl aqueous solution. The organic material was extracted twice with ethyl acetate (50 mL×2). The organic layers were combined, dried over MgSO4 and concentrated under reduced pressure. The desired product was partitioned over a silica gel column and eluted with 1.5 liters of 30% (v/v) ethyl acetate in hexanes to give 0.57 g (79%) of the title compound as a gummy solid.

reactant | sodium hydride | 3 mmol, 120 mg | [H-].[Na+]
reactant | ethyl acetoacetate | 2.6 mmol, 330 μL | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | n-BuLi hexane | 2.9 mmol, 2.5M, 1.15 mL | [Li]CCCC.CCCCCC
reactant | 4-cyano-5,5-bis(4-fluorophenyl)-2,4-pentadienal | 1.7 mmol, 0.5 g | C(#N)C(C=CC=O)=C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C18H11F2NO
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | HCl | 1M, 40 mL | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | Ethyl 8-cyano-9,9-bis(4-fluorophenyl)-5-hydroxy-3-oxo-6,8-nonadienoate | 0.57 g, 79% | C(#N)C(C=CC(CC(CC(=O)OCC)=O)O)=C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C24H21F2NO4
